*** Voltage Measurement Floating Ammeter ***
XU1 5 6 0 7 999 3 7 4 3 3 4 999 999 999 7 0 CA3083
RB 1 3 1k
C1 999 999 30p
RC1 1 5 2k
RC2 1 6 3k
R7 11 9 1k
R8 11 9 1k 
R10 10 8 1k
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
V1 1 0 dc 1
V2 0 4 dc 1
V3 8 9 0
RAmmeter1 1 2 1m
* DIGOUTPUT0_POST = 0 0 1 0 0 0 0 0
* DIGOUTPUT1_POST = 0 1 0 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Ammeter connected to RB1 ***
XU1 5 6 0 7 999 3 7 4 3 3 4 999 999 999 7 0 CA3083
RB 2 3 1k
C1 999 999 30p
RC1 1 5 2k
RC2 1 6 3k
R7 11 9 1k
R8 11 9 1k 
R10 10 8 1k
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
V1 1 0 dc 1
V2 0 4 dc 1
V3 8 9 0
RAmmeter1 999 999 1m
* DIGOUTPUT0_POST = 0 0 1 0 0 0 0 0
* DIGOUTPUT1_POST = 1 1 1 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Ammeter connected to RC1 ***
XU1 5 6 0 7 999 3 7 4 3 3 4 999 999 999 7 0 CA3083
RB 1 3 1k
C1 999 999 30p
RC1 2 5 2k
RC2 1 6 3k
R7 11 9 1k
R8 11 9 1k 
R10 10 8 1k
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
V1 1 0 dc 1
V2 0 4 dc 1
V3 8 9 0
RAmmeter1 1 2 1m
* DIGOUTPUT0_POST = 0 0 1 0 0 0 0 1
* DIGOUTPUT1_POST = 0 1 1 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Ammeter connected to RC2 ***
XU1 5 6 0 7 999 3 7 4 3 3 4 999 999 999 7 0 CA3083
RB 1 3 1k
C1 999 999 30p
RC1 1 5 2k
RC2 2 6 3k
R7 11 9 1k
R8 11 9 1k 
R10 10 8 1k
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
V1 1 0 dc 1
V2 0 4 dc 1
V3 8 9 0
RAmmeter1 1 2 1m
* DIGOUTPUT0_POST = 0 0 1 0 0 0 1 0
* DIGOUTPUT1_POST = 0 1 1 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Signal Generator Floating Ammeter Capacitor disConnected ***
XU1 5 6 0 7 999 3 7 4 3 3 4 999 999 999 7 8 CA3083
RB 1 3 1k
C1 999 999 30p
RC1 1 5 2k
RC2 1 6 3k
R7 11 9 1k
R8 11 9 1k 
R10 10 8 1k
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
V1 1 0 dc 1
V2 0 4 dc 1
V3 8 9 SINE(0 40m 10k)
RAmmeter1 1 2 1m
* DIGOUTPUT0_POST = 0 0 1 0 0 0 0 0
* DIGOUTPUT1_POST = 0 1 0 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Signal Generator Floating Ammeter Capacitor Connected ***
XU1 5 6 0 7 999 3 7 4 3 3 4 999 999 999 7 8 CA3083
RB 1 3 1k
C1 5 6 30p
RC1 1 5 2k
RC2 1 6 3k
R7 11 9 1k
R8 11 9 1k 
R10 10 8 1k
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
V1 1 0 dc 1
V2 0 4 dc 1
V3 8 9 SINE(0 40m 10k)
RAmmeter1 1 2 1m
* DIGOUTPUT0_POST = 1 0 1 0 1 1 0 0
* DIGOUTPUT1_POST = 0 1 0 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0